US07314872B2
3-(R)-(4-(S)-Benzyl-2-oxo-oxazolidine-3-carbonyl)-5-cyclohexyl-pentanoic acid tert-butyl ester (2.01 g, 4.53 mmol, 1.0 eq) was treated with a 45:50:5 CH2Cl2:TFA:H2O solution. The reaction was monitored by LC/MS and complete after 1 hour. The solution was evaporated and provided a quantitative yield of 3-(R)-(4-(S)-Benzyl-2-oxo-oxazolidine-3-carbonyl)-5-cyclohexyl-pentanoic acid as a yellow oil. 1H NMR (CDCl3, 400 MHz) δ 0.80-0.91 (m, 2H), 1.09-1.27 (m, 6H), 1.44-1.53 (m, 1H), 1.61-1.73 (m, 6H), 2.12 (s, 2H), 2.35 (dd, 1H, J=17.2, 4.0 Hz), 2.49 (dd, 1H, J=13.6, 9.6 Hz), 2.71 (dd, 1H, J=17.6, 10.8 Hz), 3.03 (dd, 1H, J=13.6, 3.2 Hz), 3.87-3.97 (m, 3H), 4.43 (m, 1H), 6.90-7.10 (m, 5H).

reactant | 3-(R)-(4-(S)-Benzyl-2-oxo-oxazolidine-3-carbonyl)-5-cyclohexyl-pentanoic acid tert-butyl ester | 4.53 mmol, 2.01 g, 1.0 eq | C(C)(C)(C)OC(C[C@@H](CCC1CCCCC1)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)=O | C26H37NO5
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | 3-(R)-(4-(S)-Benzyl-2-oxo-oxazolidine-3-carbonyl)-5-cyclohexyl-pentanoic acid | quantitative yield | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@@H](CC(=O)O)CCC1CCCCC1 | C22H29NO5
